US07119102B2
To a solution of trifluoro-methanesulfonic acid 3-amino-2-carbamoyl-4-methanesulfinyl-thieno[2,3-b]pyridin-6-yl ester (3.00 g, 7.44 mmol) in DMF (100 mL) was added 1,4-dioxa-8-azaspiro[4,5]-decane (2.20 g, 15.4 mmol). The mixture was heated to 70° C. for 1 h. The mixture was cooled to room temperature, diluted with H2O, and washed with CH2Cl2. The combined organic phase was dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue was purified by flash silica gel chromatography to provide 1.25 g (42.2%) of 3-amino-6-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-4-methanesulfinyl-thieno[2,3-b]pyridine-2-carboxylic acid amide as a yellow solid.

reactant | trifluoro-methanesulfonic acid 3-amino-2-carbamoyl-4-methanesulfinyl-thieno[2,3-b]pyridin-6-yl ester | 7.44 mmol, 3.00 g | NC1=C(SC2=NC(=CC(=C21)S(=O)C)OS(=O)(=O)C(F)(F)F)C(N)=O | C10H8F3N3O5S3
reactant | 1,4-dioxa-8-azaspiro[4,5]-decane | 15.4 mmol, 2.20 g | O1CCOC12CCNCC2 | C7H13NO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 3-amino-6-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-4-methanesulfinyl-thieno[2,3-b]pyridine-2-carboxylic acid amide | 1.25 g, 42.2% | NC1=C(SC2=NC(=CC(=C21)S(=O)C)N2CCC1(OCCO1)CC2)C(=O)N | C16H20N4O4S2
